US04077956
2.75 gms. of 5-hydroxy-1,3-dimethyl-1H-dipyrazolo-[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester are suspended in 20 ml. of concentrated hydrochloric acid. On warming, a clear solution results from which the product, 5-hydroxy-1,3-dimethyl-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, precipitates after 40 minutes as a crystal-like mass. The product is purified by dissolving the precipitate in concentrated ammonia solution, treating with charcoal, reprecipitating with hydrochloric acid and recrystallizing from dimethylformamide, m.p. > 300°.

reactant | 5-hydroxy-1,3-dimethyl-1H-dipyrazolo-[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester | OC=1C=2N(C3=C(N1)C(=NN3C)C)N=CC2C(=O)OCC | C12H13N5O3
reactant | hydrochloric acid | Cl | ClH
product | 5-hydroxy-1,3-dimethyl-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid | OC=1C=2N(C3=C(N1)C(=NN3C)C)N=CC2C(=O)O | C10H9N5O3
